US07396844B1
Synthesis of ethyl 2-[4-[(3S)-1-(t-butoxycarbonyl)-3-pyrrolidyloxy]phenyl]acetate
6.0 g (33.3 mmol) of ethyl 4-hydroxyphenylacetate, 6.25 g (33.3 mmol) of (3R)-1-(t-butoxycarbonyl)-3-hydroxypyrrolidine and 10.5 g (40 mmol) of triphenylphosphine were dissolved in 125 ml of tetrahydrofuran. 6.3 ml (40 mmol) of diethyl azodicarboxylate was added to the solution at room temperature, and they were stirred for 42 hours. After the same isolation process as that of step 1 in Example 1 with ethyl acetate as the extractant, the crude product was obtained. The crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl 4-hydroxyphenylacetate | 33.3 mmol, 6.0 g | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | (3R)-1-(t-butoxycarbonyl)-3-hydroxypyrrolidine | 33.3 mmol, 6.25 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | triphenylphosphine | 40 mmol, 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 40 mmol, 6.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[4-[(3S)-1-(t-butoxycarbonyl)-3-pyrrolidyloxy]phenyl]acetate | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)CC(=O)OCC | C19H27NO5
